US05034384
Step B: Preparation of Dimethyl-2-(4-toluyl)terephthalate
4-Bromotoluene (6 g) was dissolved in tetrahydrofuran (20 ml). To this solution at -78° C. under N2 was added over a ten minute period, 1.7M tBuLi (42 ml). After two hours at room temperature, the reaction mixture was cooled to 0° C. and 1M ZnCl2 (36 ml) was added over a ten minute period. After one-half hour at room temperature, bis(triphenylphosphine)nickel(II) chloride (1.32 g) was added followed by dimethyl-2-bromo-terephthalate (6 g) in tetrahydrofuran 920 ml) dropwise over a five minute period. The reaction mixture was stirred at room temperature for two hours. The tetrahydrofuran was removed under reduced pressure. The residue was treated with ethyl acetate and 1N HCl and the layers separated. The organic phase was washed with water, brine, dried over magnesium sulfate and evaporated which gave the crude product. Chromatography on silica gel using 5% hexanes/methylene chloride gave the desired product (5.33 g).

reactant | 4-Bromotoluene | 6 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | tBuLi | 1.7M, 42 ml | [Li]C(C)(C)C
reactant | dimethyl-2-bromo-terephthalate | 6 g | COC(C1=C(C=C(C(=O)OC)C=C1)Br)=O | C10H9BrO4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 920 ml | O1CCCC1 | C4H8O
catalyst | ZnCl2 | 1M, 36 ml | [Cl-].[Cl-].[Zn+2]
catalyst | bis(triphenylphosphine)nickel(II) chloride | 1.32 g | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Dimethyl-2-(4-toluyl)terephthalate | 5.33 g | COC(C1=C(C=C(C(=O)OC)C=C1)C1=CC=C(C=C1)C)=O | C17H16O4
